US03947336
2-Methyl thiophen-5-carboxylic acid was dissolved in carbon tetrachloride (150 ml.) and chloroform (10 ml.) and AZDN (0.5g.) was added. The mixture was refluxed over a 150 watt tungsten spotlight. Two molar equivalents of bromine as a 30% v/v solution in carbon tetrachloride were slowly added. A precipitate was formed but the mixture continued to take up bromine. After the addition of the two molar equivalents, solvent was boiled off until the volume was 100 ml. and the product treated with sodium carbonate solution with gentle heating for two hours to obtain 2-formyl thiophen-5-carboxylic acid in the form of a yellow solid after acidification, extraction and removal of the solvent.

reactant | 2-Methyl thiophen-5-carboxylic acid | CC=1SC(=CC1)C(=O)O | C6H6O2S
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | bromine | BrBr | Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tungsten | [W] | W
product | 2-formyl thiophen-5-carboxylic acid | C(=O)C=1SC(=CC1)C(=O)O | C6H4O3S
